Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
TIPS Revision
 
Major Surgical or Invasive Procedure:
TIPS revision

 
History of Present Illness:
Ms ___ is a ___ Hispanic female with history of 
___-induced liver cirrhosis complicated by massive varicael 
bleed in ___ with TIPS placement she is followed in the 
transplant clinic by Dr. ___. She has been doing well without 
further episodes of bleeding, hepatic encephalopathy or acites. 
She was seen by Dr. ___ on ___ where she was scheduled for 
routine screening US to evaluate for TIPS patency and HCC. US 
was done today and was notable for increased velocities. She is 
therefore admitted for TIPS revision.  
.  
On admission, patient has no specific complaints.  She feels 
anxious about the repeat procedure.
 
Past Medical History:
Asthma
Diabetes
HTN
CHF
Hysterectomy, tubal ligation, vein stripping
 
Social History:
___
Family History:
Mother died of MI at ___. Brother died of cirrhosis at young age 
w/o drinking alcohol. Denies cancer hx or hx of 
clotting/bleeding disorders.
 
Physical Exam:
ADMISSION:
VS: T 96.8 BP 149/87 P 71 R 20 ___ 99RA
GENERAL: Well appearing in NAD.   
HEENT: Sclera anicteric. MM slightly dry.  No LAD.  
CARDIAC: RRR with no m/r/g
LUNGS: CTA b/l with no wheezing, rales, or rhonchi.  
ABDOMEN: obese but soft, non-tender to palpation. Liver edge 2 
cm below costophrenic angle, palpable and nodular
EXTREMITIES: no edema. Warm and well perfused, no clubbing or 
cyanosis.  
NEUROLOGY: no asterixis  
SKIN: few spider angiomata

DISCHARGE:
VS: T 98.6/98.5 BP ___ P ___ R 18 ___ 100RA
GENERAL: Well appearing in NAD.   
HEENT: Sclera anicteric. No LAD.  
CARDIAC: RRR with no m/r/g
LUNGS: CTA b/l with no wheezing, rales, or rhonchi.  
ABDOMEN: obese but soft, non-tender to palpation. Liver edge 2 
cm below costophrenic angle, palpable and nodular
EXTREMITIES: no edema. Warm and well perfused, no clubbing or 
cyanosis.  
NEUROLOGY: no asterixis  
SKIN: few spider angiomata
.  
 
Pertinent Results:
___ 03:30PM BLOOD WBC-8.1 RBC-4.66 Hgb-14.2 Hct-42.0 MCV-90 
MCH-30.5 MCHC-33.9 RDW-14.6 Plt ___
___ 06:00AM BLOOD WBC-8.6 RBC-4.57 Hgb-13.9 Hct-41.1 MCV-90 
MCH-30.3 MCHC-33.7 RDW-14.9 Plt ___

___ 03:30PM BLOOD Neuts-45.2* Lymphs-45.8* Monos-6.6 
Eos-2.1 Baso-0.3

___ 03:30PM BLOOD ___ PTT-33.2 ___
___ 06:00AM BLOOD ___ PTT-36.4 ___

___ 03:30PM BLOOD Glucose-169* UreaN-8 Creat-0.6 Na-139 
K-3.8 Cl-102 HCO3-28 AnGap-13
___ 06:00AM BLOOD Glucose-116* UreaN-11 Creat-0.6 Na-140 
K-3.7 Cl-105 HCO3-27 AnGap-12

___ 03:30PM BLOOD ALT-24 AST-59* LD(LDH)-201 AlkPhos-216* 
TotBili-0.8
___ 06:00AM BLOOD ALT-22 AST-52* AlkPhos-152* TotBili-1.6*

___ 03:30PM BLOOD Albumin-3.8 Calcium-10.1 Phos-3.7 Mg-1.7
___ 06:00AM BLOOD Albumin-3.5 Calcium-9.8 Phos-4.3 Mg-1.8

IMAGING:
___: Balloon angioplasty of the proximal and distal TIPS ends. 
No evidence of
in-stent stenosis.
 
IMPRESSION:  Successful right atrium and portal venous pressure 
measurements
as provided above.  No significant gradient between the right 
atrium and
portal vein, with good TIPS flow. 
 
Brief Hospital Course:
___ yo female with NASH cirrhosis with history of massive 
variceal bleed in ___ with TIPS who now presents for admission 
for TIPS revision after US showed increase velocities.  

ACTIVE ISSUES:  
# Increased TIPS velocities- Seen on routine US.  Interventional 
Radiology consulted for TIPS revision. During procedure, found 
no stenosis. They ballooned the area but nothing seen to fix.
 
CHRONIC ISSUES: 
# NASH Cirrhosis: Patient diagnosed in ___ following massive 
varicael bleed.  Hepatitis serologies negative at that time, 
smooth muscle antibody negative. Current MELD 11, so no 
evaluation for transplant needed at this time. Was continued on 
omeprazole. 

# Diabetes- Type II, on glipizide and metformin at home. Put on 
sliding scale insulin in hospital. 
.  
# Hypertension- Home regimen includes losartan, metoprolol which 
was continued.

TRANSITIONAL ISSUES:
# Will need hepatology follow up in ___ with ultrasound to 
see if increased velocities are still seen on doppler.
 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from 
PatientwebOMR.
1. GlipiZIDE 5 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
hold for sbp<100 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Metoprolol Tartrate 25 mg PO BID 
hold for sbp<100, hr<60 
5. Montelukast Sodium 10 mg PO DAILY 
6. Omeprazole 40 mg PO BID 
7. traZODONE 50 mg PO HS:PRN insomnia 
8. Multivitamins 1 TAB PO DAILY 
9. Cromolyn Sodium (Nasal Inhalation) 1 SPRY NU Q6H 
Dosage uncertain at home 
10. Fluticasone Propionate 110mcg 2 PUFF IH BID 
Dosage uncertain at home 
11. travoprost *NF* 0.004 % ___ daily 
Dosage uncertain at home 
12. Acetaminophen 325 mg PO Q6H:PRN pain 
Dosage uncertain at home 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
Dosage uncertain at home 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
Dosage uncertain at home 
3. Losartan Potassium 50 mg PO DAILY 
hold for sbp<100 
4. Metoprolol Tartrate 25 mg PO BID 
hold for sbp<100, hr<60 
5. Montelukast Sodium 10 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 40 mg PO BID 
8. traZODONE 50 mg PO HS:PRN insomnia 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath, 
wheezing 
10. Cromolyn Sodium (Nasal Inhalation) 1 SPRY NU Q6H 
Dosage uncertain at home 
11. GlipiZIDE 5 mg PO DAILY 
12. MetFORMIN (Glucophage) 500 mg PO BID 
13. travoprost *NF* 0.004 % ___ daily 
Dosage uncertain at home 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 

Increased velocity noted through TIPS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___.  You came for further 
evaluation of an abnormality noted in your liver blood vessels 
seen on your recent abdominal ultrasound.  An intervention was 
performed to optimize the TIPS procedure you had received in 
___.  There were no complications during the procedure.  You 
are now being discharged home.  It is important that you 
continue to take your medications and follow up with the 
appointments listed below.

There have been no changes made to your medications.
 
Followup Instructions:
___